US08748613B2
2-Bromo-1-(thiophen-3-yl)ethanone (54.9 mg, 0.27 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (80 mg, 0.24 mmol) in ethyl acetate (1.2 ml) and acetonitrile (1.2 ml). The reaction was stirred at room temperature for 24 h (UPLC-MS: complete conversion). The solvents were evaporated and the residue was purified first by flash chromatography (DCM/MeOH=92/8) and then by trituration with Et2O to obtain compound (3R)-1-(2-oxo-2-(thiophen-3-yl)ethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (96 mg, 73.9% yield) as a white solid.

reactant | 2-Bromo-1-(thiophen-3-yl)ethanone | 0.27 mmol, 54.9 mg | BrCC(=O)C1=CSC=C1 | C6H5BrOS
reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.24 mmol, 80 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | Et2O | CCOCC | C4H10O
solvent | ethyl acetate | 1.2 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | (3R)-1-(2-oxo-2-(thiophen-3-yl)ethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 96 mg, 73.9% yield | [Br-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCCC2)C2=CC=CC=C2)=O)C2=CSC=C2 | InChI=1S/C26H33N2O3S.BrH/c29-23(22-11-16-32-19-22)17-28-14-9-20(10-15-28)24(18-28)31-26(30)25(21-7-3-1-4-8-21)27-12-5-2-6-13-27;/h1,3-4,7-8,11,16,19-20,24-25H,2,5-6,9-10,12-15,17-18H2;1H/q+1;/p-1/t20?,24-,25?,28?;/m0./s1
